US04894458
2,4,5-Trifluoro-3-methylbenzonitrile
A mixture of 3-bromo-2,5,6-trifluorotoluene (11.0 g) and cupric cyanide (5.3 g) in N-methylpyrrolidone (15 ml) was stirred at 150° to 160° C. in a sealed tube for 4.5 hours. After cooling, to the reacting mixture was added a solution of ferric chloride (20 g) and concentrated hydrochloric acid (5 ml) in water (30 ml) and stirred at 50° to 60° C. for 20 minutes. The reacting mixture was extracted with ether, the organic layer was washed with aqueous hydrochloric acid solution, water and saturated aqueous sodium chloride solution successively, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give the title compound (7.83 g) as pale brown oil.

reactant | 3-bromo-2,5,6-trifluorotoluene | 11.0 g | BrC=1C(=C(C(=C(C1)F)F)C)F | C7H4BrF3
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | N-methylpyrrolidone | 15 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | 30 ml | O | H2O
product | 2,4,5-Trifluoro-3-methylbenzonitrile | 7.83 g | FC1=C(C#N)C=C(C(=C1C)F)F | C8H4F3N
